US07157487B2
To a solution of tert-butyl ethyl malonate (10.0 g, 51.0 mmol) in DMF (200 ml) was added sodium hydride (60% in oil, 2.04 g, 51.0 mmol) at 0° C. under stirring. The reaction mixture was stirred at the same temperature for 30 minutes. A solution of 2-benzyloxy-4,6-difluoronitrobenzene (9.02 g, 34.0 mmol) in DMF (60 ml) was added dropwise to the reaction mixture at 0° C. The reaction mixture was then stirred at 80° C. for 18 hours. After cooling to room temperature, the reaction mixture was poured in ice-1N HCl to neutralize therewith, followed by extraction with ether. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, then distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from with ethyl acetate/hexane (1/5) eluate fractions, tert-butyl ethyl 5-benzyloxy-3-fluoro-4-nitrophenylmalonate (2.91 g, 17%) was obtained as a yellow oil.

reactant | tert-butyl ethyl malonate | 51.0 mmol, 10.0 g | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | sodium hydride | 51.0 mmol, 2.04 g | [H-].[Na+]
reactant | 2-benzyloxy-4,6-difluoronitrobenzene | 34.0 mmol, 9.02 g | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C13H9F2NO3
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | tert-butyl ethyl 5-benzyloxy-3-fluoro-4-nitrophenylmalonate | 2.91 g, 17% | C(C1=CC=CC=C1)OC=1C(=C(C=C(C1)C(C(=O)OC(C)(C)C)C(=O)OCC)F)[N+](=O)[O-] | C22H24FNO7
